US08084481B2
[5-chloro-2-(trifluoromethyl)phenyl]methylamine hydrochloride
29.2 ml of borane-THF complex (29.2 mmol) are slowly added dropwise under argon to an ice-cooled solution of 5-chloro-2-(trifluoromethyl)benzonitrile (1.50 g, 7.3 mmol) in 45 ml of anhydrous THF. After the end of the addition, the mixture is heated under reflux for 1 hr, then stirred overnight at RT with cooling. 30 ml of 1 N hydrochloric acid are then added dropwise with ice-cooling. The THF is removed on the rotary evaporator. The precipitated solid is filtered off and discarded. The filtrate is diluted with water and extracted twice with dichloromethane. These organic phases are also discarded. The acidic aqueous phase is adjusted to pH 14 with 1 N aqueous sodium hydroxide and extracted three times with dichloromethane. The combined organic phases are dried over sodium sulphate and freed of solvent on the rotary evaporator. The residue is taken up in 20 ml diethyl ether and treated with 3 ml of a 4 N solution of hydrogen chloride in dioxan, during which the product precipitates. The solvent is completely removed on the rotary evaporator, then in high vacuum. 1.89 g (99% of theory) of the title compound are isolated.

reactant | 5-chloro-2-(trifluoromethyl)benzonitrile | 7.3 mmol, 1.50 g | ClC=1C=CC(=C(C#N)C1)C(F)(F)F | C8H3ClF3N
reactant | hydrochloric acid | 1 N, 30 ml | Cl | ClH
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | [5-chloro-2-(trifluoromethyl)phenyl]methylamine hydrochloride | Cl.ClC=1C=CC(=C(C1)CN)C(F)(F)F | InChI=1S/C8H7ClF3N.ClH/c9-6-1-2-7(8(10,11)12)5(3-6)4-13;/h1-3H,4,13H2;1H
